US08629137B2
1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
0.40 g (1.8 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 0.18 g (0.60 mmol) 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were stirred overnight in 3 mL NMP at 120° C. The reaction mixture was diluted with MeOH and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 1.8 mmol, 0.40 g | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.60 mmol, 0.18 g | ClC1=NC=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H11ClN2O3
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 1-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=C2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C)=O | C26H24N6O4
